US06008372
Step (b) Preparation of Bis-(5,6,7,8-tetrahydro-1-naphthylmethyl)-acetic acid
A solution of 3.1 g (7.4 mmol) of dimethyl bis-(5,6,7,8-tetrahydro-1-naphthylmethyl)-malonate in 20 mL n-butanol was treated with a solution of 1.24 g (22 mmol) of potassium hydroxide (KOH) in 20 mL H2O and the solution heated at reflux overnight. The solvent was removed under reduced pressure and the residue taken up in H2O and acidified with dilute HCl to the Congo red color change. The mixture was extracted with EtOAc and the EtOAc washed with 1N HCl, and then a saturated solution of NaCl. Drying over MgSO4 and removal of the solvent under reduced pressure gave 2.03 g of the product. A small amount recrystallized from EtOAc/hexane had mp 144-146° C. The structure was confirmed by NMR spectroscopy.

reactant | dimethyl bis-(5,6,7,8-tetrahydro-1-naphthylmethyl)-malonate | 7.4 mmol, 3.1 g | C1(=CC=CC=2CCCCC12)CC(C(=O)OC)(C(=O)OC)CC1=CC=CC=2CCCCC12 | C27H32O4
reactant | potassium hydroxide | 22 mmol, 1.24 g | [OH-].[K+]
solvent | n-butanol | 20 mL | C(CCC)O | C4H10O
solvent | H2O | 20 mL | O | H2O
product | Bis-(5,6,7,8-tetrahydro-1-naphthylmethyl)-acetic acid | 2.03 g | C1(=CC=CC=2CCCCC12)CC(C(=O)O)CC1=CC=CC=2CCCCC12 | C24H28O2
